US06251936B1
Methanesuifonic acid 4-(9-iodo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester
To a solution of methanesulfonic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (3.00 g, 7.84 mmol), in tetrahydrofuran (31.5 mL), 80% aqueous acetic acid (16 mL) and concentrated sulfuric acid (0.87 mL) was added iodine (1.59 g, 6.27 mmol, 0.8 eq) and iodic acid (0.414 g, 2.35 mmol, 0.9 eq) at room temperature. The mixture was stirred at room temperature for 12 days. The reaction mixture was poured into a dilute aqueous solution of sodium bisulfite (200 mL) and the organics were extracted with ether (2×200 mL). The extracts were combined and silica gel was added. The solvents were removed and the adsorbate was flash chromatographed (90/10 petroleum ether/ethyl acetate) without achieving purification. The recovered material was purified by high pressure liquid chromatography which gave recovered starting material (30.5%) and gave the title compound as a white solid (0.835 g, 30%): mp 212-213° C.; NMR (DMSO-d6); δ8.09 (d, J=8 Hz, 1H), 7.64-7.58 (m, 1H), 7.54-7.42 (m, 5H), 7.43 (d, J=8 Hz, 1H), 3.47 (s, 3H, SO3CH3), 2.42 (s, 3H), 1.50 (s, 3); MS(EI): [M+] 508 (100%); Anal. calc. for C21H17IO3S2, C, 49.61; H, 3.37; N, 0.00. Found: C, 49.44; H, 3.52; N, 0.03.

reactant | methanesulfonic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 7.84 mmol, 3.00 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC=C(C=C2)OS(=O)(=O)C)C | C21H18O3S2
reactant | sulfuric acid | 0.87 mL | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 6.27 mmol, 1.59 g, 0.8 eq | II | I2
reactant | iodic acid | 2.35 mmol, 0.414 g, 0.9 eq | I(=O)(=O)O | HIO3
reactant | sodium bisulfite | 200 mL | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 31.5 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
product | Methanesuifonic acid 4-(9-iodo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 0.835 g, 30% | IC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)OS(=O)(=O)C | C21H17IO3S2
